US08252935B2
a) 2-{5-[1-(Isoquinoline-5-sulfonyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester
To a solution of compound 33b, 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester (48.0 mg, 0.106mmol) in anhydrous dichloromethane (4 ml) was added isoquinoline -5-sulfonyl chloride (42.1 mg, 0.16 mmol) and DIEA (37.0 μl, 0.21 mmol). The reaction stirred at room temperature over 72 hours, was diluted with dichloromethane and washed with sat. NaHCO3, and brine, dried and filtered. Purification by silica gel chromatography (Isco) gave the desired product, (60.0 mg, 88% ). Calcd for C35H37F3N2O4S (M+H) 638.74, Found 639.3.

reactant | 4-Methyl-2-(5-piperidin-3-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 0.106mmol, 48.0 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CNCCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | isoquinoline -5-sulfonyl chloride | 0.16 mmol, 42.1 mg | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | DIEA | 0.21 mmol, 37.0 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2-{5-[1-(Isoquinoline-5-sulfonyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester | 60.0 mg, 88% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)S(=O)(=O)C=1C=2C=CN=CC2C=CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C35H37F3N2O4S
